US07666888B2
3-Piperidin-3-ylpentan-3-ol hydrochloride
Ethyl magnesium bromide (15 mL, 1M in diethyl ether, 15 mmol) was added dropwise to a solution of the 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate (1.29 g, 5 mmol) in diethyl ether (20 mL) and THF (20 mL) during 10 min. The mixture was stirred for 30 min and thereafter slowly quenched with NH3Cl solution (10 mL, 3M). The phases were separated and the organic phase was evaporated to yield a yellow oil. The oil was dissolved in DCM (2 mL) and TFA (2 mL) was added and the reaction was left for left at room temperature for 15 min at room temperature. The solvents were evaporated and the residue dissolved in EtOAc. HCl was bubbled through the solution in a gentle stream for 10 minutes. The solvent was evaporated and the residue dried in vacuum. Dissolvation in EtOAc (10 mL) and addition of diethyl ether (100 mL) and stirring for 1 h at room temperature gave the title compound as white crystals. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.78-0.91 (m, 6 H) 1.27-1.56 (m, 5 H) 1.83 (d, J=13.18 Hz, 1 H) 1.87-1.98 (m, 2 H) 2.02-2.18 (m, 2 H) 2.65-2.91 (m, 2 H) 3.39 (d, J=12.45 Hz, 1 H) 3.53 (d, J=12.70 Hz, 1 H) 9.22 (s, 1 H) 9.49 (s, 1 H).

reactant | Ethyl magnesium bromide | 15 mmol, 1M, 15 mL | C(C)[Mg]Br
reactant | 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate | 5 mmol, 1.29 g | N1(CC(CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Piperidin-3-ylpentan-3-ol hydrochloride | Cl.N1CC(CCC1)C(CC)(CC)O | InChI=1S/C10H21NO.ClH/c1-3-10(12,4-2)9-6-5-7-11-8-9;/h9,11-12H,3-8H2,1-2H3;1H
